US04262122
Preparation of 2-Hydrazino-5,5-Dimethyl-1,4,5,6-Tetrahydropyrimidine Hydrochloride
The product (2.60 parts) of Example 1 above, 2-amino-5,5-dimethyl-1,4,5,6-tetrahydropyrimidine hydrochloride, is added to a suitable flask equipped with condenser and magnetic stirring bar, and flushed with argon. There is next added 1.19 parts, 1.5 equivalents, of hydrazine hydrate, and the mixture is stirred until a clear solution is obtained. The flask is then placed in an oil bath preheated to 115° C. Ammonia is evolved almost immediately. The reaction is maintained at 115°-120° C. under a stream of argon for twelve hours. After sitting overnight at room temperature, the flask contains a white, crystalline solid and a small amount of clear, colorless liquid. The liquid is evaporated at room temperature. Resultant yield of 2-hydrazino-5,5-dimethyl-1,4,5,6-tetrahydropyrimidine hydrochloride which is found to be 97% pure is almost quantitative.

reactant | 2-amino-5,5-dimethyl-1,4,5,6-tetrahydropyrimidine hydrochloride | Cl.NC=1NCC(CN1)(C)C
reactant | Ammonia | N | H3N
product | 2-Hydrazino-5,5-Dimethyl-1,4,5,6-Tetrahydropyrimidine Hydrochloride | Cl.N(N)C=1NCC(CN1)(C)C | InChI=1S/C6H14N4.ClH/c1-6(2)3-8-5(10-7)9-4-6;/h3-4,7H2,1-2H3,(H2,8,9,10);1H
